US05661159
A mixture of 7-Chloro-2-(5-aminobenzofuran-2-yl)-quinoline (0.17 g), sodium bicarbonate (0.2 g), ethyl 4-bromobutyrate (0.12 g) in hexamethylphosphoric triamide ml) was stirred at ambient temperature for 1 day. The resulting mixture was poured into ice-water. The appeared precipitates were collected by filtration, washed with water, and recrystallized from ethanol to give 7-chloro-2-[5-(3-ethoxycarbonylpropylamino)benzofuran-2-yl]quinoline (0.13 g).

reactant | 7-Chloro-2-(5-aminobenzofuran-2-yl)-quinoline | 0.17 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)N | C17H11ClN2O
reactant | sodium bicarbonate | 0.2 g | C([O-])(O)=O.[Na+]
reactant | ethyl 4-bromobutyrate | 0.12 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-chloro-2-[5-(3-ethoxycarbonylpropylamino)benzofuran-2-yl]quinoline | 0.13 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)NCCCC(=O)OCC | C23H21ClN2O3
